US08871774B2
Formation of (+/−)-trans-(2,3)-methyl 3-((5-chloro-2-(5-fluoro-1-trityl-1H-pyrazolo-[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)bicyclo[2.2.2]octane-2-carboxylate (38)
A solution of (+/−)-trans-(2,3)-methyl 3-((2,5-dichloropyrimidin-4-yl)amino)-bicyclo-[2.2.2]octane-2-carboxylate, 37, (0.50 g, 1.51 mmol) and K3PO4 (0.96 g, 4.54 mmol) in water (2.5 mL) and THF (10.00 mL) was degassed for 15 min with a stream of nitrogen. Then, 5-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine, 6, (0.84 g, 1.67 mmol) was added and the mixture was degassed for an additional 15 min. Then, Pd(PPh3)4 (0.09 g, 0.08 mmol) was added to the mixture. The vessel was sealed and heated to 90° C. After 2.5 hr., an additional 0.1 equivalent of boronate, 6, was added and the mixture was heated for an additional 30 min. The cooled solution was diluted with EtOAc, washed with water, dried over Na2SO4, filtered and concentrated in vacuo. Flash chromatography (SiO2, 0-35% EtOAc in DCM) gave the desired product (0.85 g, 83% yield) which was sufficiently pure for use in the next reaction: LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=3.85 min, (M+H) 673.27.

reactant | methyl 3-((2,5-dichloropyrimidin-4-yl)amino)-bicyclo-[2.2.2]octane-2-carboxylate | ClC1=NC=C(C(=N1)NC1C(C2CCC1CC2)C(=O)OC)Cl | C14H17Cl2N3O2
reactant | K3PO4 | 4.54 mmol, 0.96 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-trityl-pyrazolo[3,4-b]pyridine | FC=1C=C2C(=NC1)N(N=C2B2OC(C(O2)(C)C)(C)C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H29BFN3O2
reactant | boronate | 0.1 equivalent | B([O-])[O-]
solvent | water | 2.5 mL | O | H2O
solvent | THF | 10.00 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.08 mmol, 0.09 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-((5-chloro-2-(5-fluoro-1-trityl-1H-pyrazolo-[3,4-b]pyridin-3-yl)pyrimidin-4-yl)amino)bicyclo[2.2.2]octane-2-carboxylate | 0.85 g, 83% yield | ClC=1C(=NC(=NC1)C1=NN(C2=NC=C(C=C21)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC2C(C1CCC2CC1)C(=O)OC | C39H34ClFN6O2
